US04087524
1α-Methyl-4-androstene-17β,19-diol is dissolved in pyridine and propionic anhydride and stirred under nitrogen at room temperature overnight. Ethanol is added and stirring continued for an additional 2 hours. The solvents are removed under vacuum and the residue is crystallized from hexane to yield 1α-methyl-4-androstene-17β,19-diol dipropionate.

reactant | 1α-Methyl-4-androstene-17β,19-diol | C[C@H]1CCC=C2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]12CO)O | C20H32O2
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | Ethanol | C(C)O | C2H6O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 1α-methyl-4-androstene-17β,19-diol dipropionate | C(CC)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CCC[C@@H]([C@]3(COC(CC)=O)[C@H]1CC2)C | C26H40O4
